Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
numbness and pain
 
Major Surgical or Invasive Procedure:
lumbar puncture ___ attempt with no fluid obtained
lumbar puncture ___ in ___
lumbar pucture ___ in ___
 
History of Present Illness:
___ yo F with h/o breast cancer dx'd ___ yrs ago s/p surgery, chemo
and radiation with ___ month h/o progressive numbeness and pain. 

It started in early ___ around her rectum with both
numbness and burning pain.  Both symptoms progressed to vaginal
area, then entire buttocks, then back of L leg, then down post
calf to L foot.  Subsequently spread down back of R leg and down
to R foot.  About ___ months ago began having numbness of R
thumb and ant R forarm to elbow.  About 1 month ago began having
numbness L ant upper arm.  The numbness in these areas was
constant with variability in pain.  Pain is a burning pain, 
worst
at night.  

She described feeling weak all over but no focal weakness.  She
had a wobbly gait, difficulty with balance due to numbness.  She
has been using crutches to ambulate.  

She also since ___ has had trouble with bladder and bowel
control.  Previously to this she would lose a little urine with
coughing or sneezing.  Since ___ however she sometimes gets a
full stream of urine without realizing it, is wearing depends.
She usually has control of her bowel, but when she uses 
laxatives
for her irritable bowel syndrome she does sometimes lose control
of her bowels.  

She had just gone back to work when symptoms started, quickly 
had
to stop working.  

She has been followed by an outside neurologist.  Outside 
imaging
includine entire spine MRIs were reviewed by Dr. ___ at 
___
and normal.  At some point she said she had a disc problems
identified.  EMG done at ___ showed mildly low response
amplitudes with normal distal latencies, absent H reflexes, and
normal needle examination.  LP significant for 63 WBCs (95%
lymphs, 4% monos, 1% polys), protein 208, glucose 41.  

She was diagnosed with ___ syndrome of CIDP by her
outside neurologist and started on a course of steroids last
week.  She took prednisone 80mg po qday x4 days.  During that
time she did experience improvement of her numbness, especially
no longer numb L forearm.  

ROS: gastroenteritis 1 month ago, otherwise no recent illnesses. 

Last immunization was flu shot ___.  No recent travel.  Denies
focal weakness, headaches, changes in vision or hearing,
difficulty speaking or thinking of words, difficulty with 
memory.
Wt loss 28lbs over 6 months attributed to decreased appetite and
fatigue.  General feeling of weakness and fatigue.  Denies
shortness of breath, chest pain, palpitations.  Denies vomiting. 

+irritable bowel with alternating diarrhea and constipation

 
Past Medical History:
-Breast cancer dx ___ yrs ago that was treated with L mastectomy
(___), adriamycin, cytoxan, taxol, and radiation.  ___ had a
___ flap complicated by poor wound healing and infection.  Has
been on tamoxifen, then arimidex (SP?) then aromicine (?) now 
not
on any hormonal agents.  
-Pulmonary embolus ___ while on tamoxifen.  
- Hypertension
- Tachycardia - ? duration.  No specific diagnosis.  Recent
nuclear cardiac stress test normal.  
- Irritable bowel syndrome
- Depression
- Anxiety

 
Social History:
___
Family History:
Her mother is ___ and has lung cancer and diabetes, prior smoker. 

Her father died at ___ of a ruptured brain aneurysm. 
She has 10 siblings.  One brother has liver cancer, hepatitis C. 

One brother died of a head injury.  One sister with h/o throat
cancer, not a smoker.  One sister with depression and diabetes 
Her ___ yo sone has ADHD and asthma.  
Her ___ yo son has ADHD, ASD now closed, thrombocytopenia at 
birth

 
Physical Exam:
T- 99.2 BP- 134/98 HR- 119 RR-20 O2Sat97% RA
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
Chest: well healed surgical scars over L upper breast, 
surgically
created breast.
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender, +BS, well healed surgical scar across
lower abdomen
ext: no edema, wwp, cap refill <2 sec

Neurologic examination: 
Mental status: Awake and alert, cooperative with exam, normal 
affect.  Oriented to person, place, and date.  Attentive, says
___ backwards.  Speech is fluent with normal comprehension and
repetition. No dysarthria. Registers ___, recalls ___ in 5
minutes.  No right left confusion. 
 
Cranial Nerves:  
Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Visual fields are full to confrontation. 
Extraocular
movements intact bilaterally, no nystagmus. Sensation intact
V1-V3.  Facial movement symmetric.  Hearing intact to finger rub
bilaterally.  Palate elevation symmetrical.  Trapezius normal
strength bilaterally. Tongue midline, movements intact
 
Motor: 
Normal bulk bilaterally. Tone normal. No observed myoclonus or
tremor

  Del Tri Bi  WF WE FE FF  IP  H   Q  DF  PF  TE 
R  ___  ___  ___  ___  3  
L  ___  ___  ___  ___  3    
 
Sensation: 
Slightly decreased proprioception in toes (can tell larger but
not smaller movements), normal proprioception in thumbs. 
Vibration sense slightly decreased in bilateral ankles.  Intact
to light touch throughout but abnormal sensation over S1-S4
districution. Pinprick intact but feels different in LEs, unable
to feel in S3/S4 and some of S2 distribution.  Also decreased
sensation to light touch and pinprick around lower abdominal
scar. Sensation intact to light touch and pinprick throughout
UEs, feels slightly different to light touch over R thumb.

Intact to light touch, pinprick, vibration and proprioception
throughout. No extinction to DSS
 
Reflexes: 
DTRs:  biceps 0 bilat, triceps 1 bilat, knees 2+ bilat R 
slightly
more brisk than L, ankles 0 bilat.    
Toes downgoing on L, mute on R
 
Coordination: finger-nose-finger normal, heel to shin normal,
RAMs normal. 
 
Gait: slightly wide based, waddling.
 
Romberg: Positive

 
Pertinent Results:
___ 09:20PM   ___ PTT-70.7* ___
___ 05:10PM   %HbA1c-5.4
___ 05:10PM   TSH-1.5
___ 05:10PM   CRP-7.3*
___ 05:10PM   SED RATE-17
___ 03:20PM   GLUCOSE-139* UREA N-10 CREAT-0.7 SODIUM-139 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-26 ANION GAP-14
___ 03:20PM   estGFR-Using this
___ 03:20PM   CALCIUM-9.5 PHOSPHATE-3.7 MAGNESIUM-2.1
___ 03:20PM   WBC-7.7 RBC-4.62 HGB-13.5 HCT-41.2 MCV-89 
MCH-29.2 MCHC-32.7 RDW-14.0
___ 03:20PM   NEUTS-62.3 ___ MONOS-4.3 EOS-1.0 
BASOS-0.8
___ 03:20PM   PLT COUNT-307
___ 03:20PM   ___ PTT-21.7* ___

 
Brief Hospital Course:
Neurology/oncology - Exam findings consistent with cauda equina 
syndrome.  We obtained 3 lumbar punctures for cytology.  Results 
signifiant for WBCs ___, RBCs 16 to 415 with clearing from 
tubes 1 -->4 each time, protein 259-348, glucose 52-65.  
Cytology negative on the first, a few atypical cells which were 
not conclusive on the ___ and positive on the ___ with cells 
consistent with breast cancer.  ER and HER2 markers on cells 
from ___ recommended by medical oncology, unable to be done 
because not enough cells in CSF.  Slides and tissue block from 
her primary breast cancer in ___ obtained for 
cytology/pathology to compare cells found in CSF.  Cytology 
thought that the cells looked the same as cells from her old 
tissue block.  CSF LDH 98, CEA <1.  Serum showed elevated 
___ at 46, serum CEA <1.  

Also serum CRP 7.3.  Hemoglobin A1c and TSH within normal 
limits.  

MRI imaging of the brain and the entire spine:  Enhancement of 
the cauda equina with an enhancing soft tissue mass in the 
distal thecal sac. Focal signal abnormality and enhancement 
within the thoracic spinal cord extending from T3-4 to T5-6 
level. 

Imaging findings and cytology confirm the diagnosis of 
leptomeningeal carcinomatosis, most likely metastatic breast 
cancer. 

CT torso and bone scan negative for evidence of metastatic 
disease elsewhere. 

Neuro-oncology (___) consulted and met with the patient, 
see his note for details.  He agreed with diagnosis of 
leptomeningeal carcinomatosis and recommended starting right 
away with radiation therapy, likely followed by chemotherapy.  
Medical oncology also saw the patient, recommended sending the 
tumor markers as above, agreed with diagnosis.  

Discussed with both teams regarding the need to try to obtain a 
biopsy potentially of the mass in the distal thecal sac prior to 
treatment, but it would not have be possible to obtain without 
laminectomy which would have delayed radiation.  Also concerns 
for poor wound healing with radiation after surgery.  Given high 
level of clinical suspicion for metastatic breast cancer and 
also as in the end cells were obtained from CSF, biopsy was not 
necessary.   

Neurologic exam on discharge significant for weakness in the 
hamstrings, hip abduction, ankle dorsiflexion and 
plantarflexion, and toe extension and flexion bilaterally. 
Numbness in a S1-4 distribution.  

Pain:  Pain team involved during admission.  Titrated up lyrica 
to 150mg po bid.  Plan on discharge to continue to increase 
slowly by 50mg Q3 days to goal of 150mg po tid.  Increased 
fentanyl patch to 62micrograms Q72hrs.  Added lidocaine patches. 
 Added tizanidine 2mg po qhs.  Tylenol scheduled during 
admission.  Valium 5mg po Q6hrs prn.  

ID: CSF lyme ___ and CSF HSV PCR negative.  CSF CMV and VZV 
PCRs pending on discharge, however symptoms explained by 
diagnosis as above.  

CV/Resp:  Persistent mild tachycardia ___ during admission, 
sinus rhythm.  Normla EKG.  BPs within normal limits.  No 
desaturations.  

FEN/GI:  Treated with bowel regimen for constipation including 
colace, miralax prn and senna prn.  

 
Medications on Admission:
Prozac 20mg po QAM
Lyrica 75mg po bid
Lorazepam 1mg po Q6hrs prn anxiety
Vicoden ___ 2 tabs ___
fentanyl patch 50micrograms Q72hrs due to decrease to 25
microgram patch on ___
prilosec 40mg po bid
miralax prn
Triamterene/HCTZ ___ 1 tab po Qday

 
Discharge Medications:
1. Lyrica 50 mg Capsule Sig: Three (3) Capsule PO three times a 
day: Start at 150mg in the morning 50mg in the afternoon and 
150mg in the evening.  In 3 days increased to 150mg/100mg/150mg. 
 Again after 3 days increase to 150mg 3 times daily.  .
Disp:*126 Capsule(s)* Refills:*0*
2. Enoxaparin 100 mg/mL Syringe Sig: Ninety (90) mg Subcutaneous 
Q12H (every 12 hours) for 7 days.
Disp:*1260 mg* Refills:*0*
3. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) patch Transdermal 
Q72H (every 72 hours).
Disp:*10 patch* Refills:*2*
4. Fentanyl 12 mcg/hr Patch 72 hr Sig: One (1) patch Transdermal 
every ___ (72) hours: for total of 62 micrograms Q72hrs.
Disp:*10 patches* Refills:*2*
5. Warfarin 1 mg Tablet Sig: Two (2) Tablet PO at bedtime: 2 
tablets QHS MWF, 3 tablets QHS TThSaSu.
Disp:*72 Tablet(s)* Refills:*2*
6. Oxycodone 5 mg Tablet Sig: Three (3) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*32 Tablet(s)* Refills:*0*
7. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical DAILY (Daily): on for 
12 hours, off for 12 hours, please apply to both sides of lower 
back as needed .
Disp:*28 Adhesive Patch, Medicated(s)* Refills:*2*
8. Tizanidine 2 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*14 Tablet(s)* Refills:*2*
9. Diazepam 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed: for muscle spasm.
Disp:*56 Tablet(s)* Refills:*0*
10. Fluoxetine 20 mg Capsule Sig: One (1) Capsule PO QAM (once a 
day (in the morning)).  
11. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
12. Polyethylene Glycol 3350 100 % Powder Sig: Seventeen (17) g 
PO DAILY (Daily) as needed for constipation.  
13. Triamterene-Hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Cap PO DAILY (Daily).  
14. Acetaminophen 500 mg Capsule Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
leptomeningeal carcinomatosis.

 
Discharge Condition:
stable

 
Discharge Instructions:
You were diagnosed with metastatic cancer to the spine, called 
leptomeningeal carcinomatosis.  Please continue with radiation 
therapy as planned followed by medical oncology per your 
oncologist Dr. ___.  We have adjusted your pain 
medications during admission.  Please contact your physician if 
your pain is not well controlled.   

Pick up your prescriptions at Pharmacare pharmacy.
 
Followup Instructions:
___